US09315521B2
The crude (2,6-dichloropyridin-3-yl)methanol was converted to 3-(bromomethyl)-2,6-dichloropyridine, which was then reacted with 6-methyl-2-sulfanylpyrimidin-4-ol in the presence of triethylamine to provide 2-{[(2,6-dichloropyridin-3-yl)methyl]sulfanyl}-6-methylpyrimidin-4-ol as a white solid (0.822 g, 82% yield); 1H NMR (400 MHz, DMSO-d6): δ 2.15 (s, 3H), 4.36 (s, 2H), 5.95 (bs, 1H), 7.40 (d, J=8.0 Hz, 1H), 8.01 (d, J=8.0 Hz, 1H); M+302.5.

reactant | (2,6-dichloropyridin-3-yl)methanol | ClC1=NC(=CC=C1CO)Cl | C6H5Cl2NO
reactant | 3-(bromomethyl)-2,6-dichloropyridine | BrCC=1C(=NC(=CC1)Cl)Cl | C6H4BrCl2N
reactant | 6-methyl-2-sulfanylpyrimidin-4-ol | CC1=CC(=NC(=N1)S)O | C5H6N2OS
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 2-{[(2,6-dichloropyridin-3-yl)methyl]sulfanyl}-6-methylpyrimidin-4-ol | 0.822 g, 82% yield | ClC1=NC(=CC=C1CSC1=NC(=CC(=N1)O)C)Cl | C11H9Cl2N3OS
